US04002746
Heat a mixture of 5-(3,4-dimethoxyphenyl)-pent-1-yne (8 g), water (2.5 cc), trioxan (0.5 g ), 30% formalin (5.5 g), diethylamine (4 g), acetic acid (2.75 g), dioxan (25 cc) and cuprous chloride (0.13 g) at 70° for 15 hours. Make the cooled solution alkaline with 10% aqueous sodium hydroxide and collect the product. Wash the ethereal solution with water and extract with 10% hydrochloric acid (3 × 30 cc). Wash the combined aqueous extracts with ether, make it alkaline with 10% sodium hydroxide solution and extract with ether. Wash and dry the ethereal solution, evaporate the solvent and distil the residue at 0.1 mm Hg to obtain 1-diethylamino-6-(3,4-dimethoxyphenyl)-hex-2-yne.

reactant | 5-(3,4-dimethoxyphenyl)-pent-1-yne | 8 g | COC=1C=C(C=CC1OC)CCCC#C | C13H16O2
reactant | trioxan | 0.5 g | O1OOCCC1 | C3H6O3
reactant | formalin | 5.5 g | C=O | CH2O
reactant | diethylamine | 4 g | C(C)NCC | C4H11N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxan | 25 cc | O1CCOCC1 | C4H8O2
solvent | acetic acid | 2.75 g | C(C)(=O)O | C2H4O2
solvent | water | 2.5 cc | O | H2O
product | 1-diethylamino-6-(3,4-dimethoxyphenyl)-hex-2-yne | C(C)N(CC#CCCCC1=CC(=C(C=C1)OC)OC)CC | C18H27NO2
